US05585513
Carbon tetrabromide (0.33 g) was added to solution of N-methyl-2-(2-hydroxymethylphenyl)-2-methoxyiminoacetamide (0.11 g) and triphenylphosphine (0.26 g) in tetrahydrofuran (10 ml) at 0° C. The reaction mixture was stirred at 0° C. for 11/2 hours and then at room temperature for 1 hour. The reaction mixture was then poured into water and extracted three times with ethyl acetate. The combined extracts were washed with brine and dried over magnesium sulphate. The solution was then concentrated under reduced pressure to leave a gum. Column chromatography (eluting with diethyl ether on silica gel) gave the N-methyl-2-(2-bromomethylphenyl)-2-methoxyiminoacetamide as a gum (80 mg, 57%). 1H NMR (CDCl3) δ 2.95(d, 3H), 4.0(s,3H), 4.35(s,2H), 6.8(brs,1H), 7.1-7.5(m,4H) ppm.

reactant | Carbon tetrabromide | 0.33 g | C(Br)(Br)(Br)Br | CBr4
reactant | N-methyl-2-(2-hydroxymethylphenyl)-2-methoxyiminoacetamide | 0.11 g | CNC(C(=NOC)C1=C(C=CC=C1)CO)=O | C11H14N2O3
reactant | triphenylphosphine | 0.26 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | water | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | N-methyl-2-(2-bromomethylphenyl)-2-methoxyiminoacetamide | 80 mg, 57% | CNC(C(=NOC)C1=C(C=CC=C1)CBr)=O | C11H13BrN2O2
